US04764361
A mixture of (S)-1,2-epoxy-3-phenoxypropane (0.495 g.) and N-(2-aminoethyl)isobutyramide (0.429 g) in ethanol (25 ml) was heated under reflux for 48 hours. The reaction mixture was cooled and solvent removed by rotary evaporation in vacuo. The residual solid was purified by column chromatography on silica (Merck, Art. 7736) using 5% v/v methanol in dichloromethane as eluant. The solid thereby obtained was purified by recrystallisation from ethyl acetate to give (S)-N-(2-[2-hydroxy-3-phenoxypropyl]aminoethyl)isobutyramide (0.425 g), m.p. 88°-89° C., 24 [α]D -5.8° [c, 1.04; methanol], mixed m.p. with material from Example 1, 88°-89° C.

reactant | (S)-1,2-epoxy-3-phenoxypropane | 0.495 g | O1C[C@H]1COC1=CC=CC=C1 | C9H10O2
reactant | N-(2-aminoethyl)isobutyramide | 0.429 g | NCCNC(C(C)C)=O | C6H14N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (S)-N-(2-[2-hydroxy-3-phenoxypropyl]aminoethyl)isobutyramide | 0.425 g | O[C@@H](CNCCNC(C(C)C)=O)COC1=CC=CC=C1 | C15H24N2O3
